US08703759B2
Step 1—Core Synthesis Preparation of 6-bromo-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
A suspension of 40 g 5-bromo-2-hydrazinylpyridine (212 mmol) and 38 g 1,1′-Carbonyldiimidazole (234 mmol) in 500 mL acetonitrile was refluxed for 2 h. The reaction was then cooled to room temperature overnight. The precipitate was collect by filtration. 6-Bromo-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one as a light brown solid was collected. m/z (ESI)=213.9 [M+H]+. 1H NMR (δ, d6-DMSO, 400 MHz) 12.59 (s, 1H), 8.04 (dd, 1H), 7.21 (m, 2H).

reactant | 5-bromo-2-hydrazinylpyridine | 212 mmol, 40 g | BrC=1C=CC(=NC1)NN | C5H6BrN3
reactant | 1,1′-Carbonyldiimidazole | 234 mmol, 38 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | 6-bromo-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | BrC=1C=CC=2N(C1)C(NN2)=O | C6H4BrN3O
